US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]glycinamide
To a solution of 2-azido-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]acetamide (110 mg, 0.25 mmol) in methanol was added 10% palladium on carbon (507 mg). After being stirred at room temperature overnight under a hydrogen atmosphere, the resulting mixture was filtered. The filtrate was concentrated in vacuo. The residue was purified by preparative HPLC to afford 30 mg of the product as a white powder. MS obsd. (ESI+) [(M+H)+] 411, 1H NMR (400 MHz, CD3OD) δ ppm 8.51 (s, 1 H), 8.12 (s, 1 H), 8.07 (d, J=7.6 Hz, 1 H), 8.00 (d, J=7.6 Hz, 1 H), 7.87 (d, J=8.8 Hz, 1 H), 7.67-7.12 (m, 2 H), 7.57 (t, J=8.0 Hz, 1 H), 5.31 (s, 2 H), 4.66 (brs, 2 H), 4.25 (s, 2 H), 3.78 (s, 2 H), 2.52 (s, 3 H).

reactant | 2-azido-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]acetamide | 0.25 mmol, 110 mg | N(=[N+]=[N-])CC(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C21H20N6O3S
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 507 mg | [Pd] | Pd
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]glycinamide | 30 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(CN)=O)C)=O | C21H22N4O3S
